US07375087B2
[4-(2-Benzyloxycarbonyl-2-methylpropoxy)phenyl]methanol
To a solution of 4-(2-benzyloxycarbonyl-2-methylpropoxy)benzaldehyde (0.97 g) in tetrahydrofuran (20 mL) was added sodium borohydride (59 mg), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1-3/2) to give the title compound (0.95 g).

reactant | 4-(2-benzyloxycarbonyl-2-methylpropoxy)benzaldehyde | 0.97 g | C(C1=CC=CC=C1)OC(=O)C(COC1=CC=C(C=O)C=C1)(C)C | C19H20O4
reactant | sodium borohydride | 59 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [4-(2-Benzyloxycarbonyl-2-methylpropoxy)phenyl]methanol | 0.95 g | C(C1=CC=CC=C1)OC(=O)C(COC1=CC=C(C=C1)CO)(C)C | C19H22O4
